US04709049
N-(4-Bromo-2-fluorophenyl)acetamide (173.2 g) was suspended in conc. sulfuric acid (80 ml), and 60% fuming sulfuric acid (340 ml) was dropwise added thereto at 10 to 20° C., followed by stirring at 20° C. for 2 hours. The reaction mixture was dropwise added to ice water (500 g) at 10° to 20° C., and the precipitated crystals were collected by filtration, washed with cold water (400 ml) and dried under reduced pressure to give 175.8 g of 5-(N-acetylamino)-2-bromo-4-fluorobenzenesulfonic acid. M.P., more than 300° C.

reactant | N-(4-Bromo-2-fluorophenyl)acetamide | 173.2 g | BrC1=CC(=C(C=C1)NC(C)=O)F | C8H7BrFNO
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 340 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(N-acetylamino)-2-bromo-4-fluorobenzenesulfonic acid | 175.8 g | C(C)(=O)NC=1C(=CC(=C(C1)S(=O)(=O)O)Br)F | C8H7BrFNO4S
